US03962247
To 11.7 g. of N-(α-cyano-4-chlorobenzyl)piperazine was added 70 ml. of benzene and then 6.9 g. of anhydrous potassium carbonate. To the resulting solution was added dropwise 5.4 g. of ethyl chloroformate dissolved in 30 ml. of benzene with cooling. After dropping, the mixture was stirred for 2 hours at 40° - 45°C. After cooling, water was poured into the mixture to dissolve inorganic substance. The benzene layer was separated, washed with water, dried over sodium sulfate, and the solvent distilled off. There was obtained 10.7 g. of N-(α-cyano-4-chlorobenzyl)-N'-ethoxycarbonylpiperazine as an oily substance. This product was dissolved in benzene and the resultant solution was saturated with dry hydrochloric gas to separate crystal which was collected by filtration. Recrystallization from acetone afforded N-(α-cyano-4-chlorobenzyl)-N'-ethoxycarbonylpiperazine hydrochloride having a melting point of 166°C.

reactant | N-(α-cyano-4-chlorobenzyl)piperazine | C(#N)C(C1=CC=C(C=C1)Cl)N1CCNCC1 | C12H14ClN3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | N-(α-cyano-4-chlorobenzyl)-N'-ethoxycarbonylpiperazine | C(#N)C(C1=CC=C(C=C1)Cl)N1CCN(CC1)C(=O)OCC | C15H18ClN3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-(α-cyano-4-chlorobenzyl)-N'-ethoxycarbonylpiperazine hydrochloride | Cl.C(#N)C(C1=CC=C(C=C1)Cl)N1CCN(CC1)C(=O)OCC | InChI=1S/C15H18ClN3O2.ClH/c1-2-21-15(20)19-9-7-18(8-10-19)14(11-17)12-3-5-13(16)6-4-12;/h3-6,14H,2,7-10H2,1H3;1H
